US07632838B2
(2R)-4-[4-fluoro-2-(trifluoromethyl)phenyl]-1-[(4-methoxyphenyl)sulfonyl]-2-methylpiperazine
To solution of 1-(4-Fluoro-2-trifluoromethyl-phenyl)-3-methyl-piperazine (200 mg, 0.76 mmol) and DIPEA (0.33 mL, 1.90 mmol) in DCM (8.0 mL) was added 4-Methoxybenzenesulfonyl chloride. The reaction was allowed to stir over a 12-16 hr period, after which it was judged complete by TLC. The reaction mixture was concentrated in-vacuo, and the resultant crude oil was purified via normal phase SiO2 column chromatography using a 2%-10% EtOAc/Hex solvent gradient. The desired product, was isolated in >95% purity. HRMS: calcd for C19H20F4N2O3S+H+, 433.12035. found ([M+H]1+), 433.12037.

reactant | 1-(4-Fluoro-2-trifluoromethyl-phenyl)-3-methyl-piperazine | 0.76 mmol, 200 mg | FC1=CC(=C(C=C1)N1CC(NCC1)C)C(F)(F)F | C12H14F4N2
reactant | DIPEA | 1.90 mmol, 0.33 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | 4-Methoxybenzenesulfonyl chloride | COC1=CC=C(C=C1)S(=O)(=O)Cl | C7H7ClO3S
solvent | DCM | 8.0 mL | C(Cl)Cl | CH2Cl2
product | (2R)-4-[4-fluoro-2-(trifluoromethyl)phenyl]-1-[(4-methoxyphenyl)sulfonyl]-2-methylpiperazine | FC1=CC(=C(C=C1)N1C[C@H](N(CC1)S(=O)(=O)C1=CC=C(C=C1)OC)C)C(F)(F)F | C19H20F4N2O3S
